US04659722
150 ml of benzene was added to 10.0 g of N-(1-hydroxy-2,2,2-trichloroethyl)nicotinamide. 5.3 g of thionyl chloride was added dropwise thereto and the mixture was heated under reflux (60° to 80° C.) for about 5 h under stirring to complete the production of N-(1,2,2,2-tetrachloroethyl)nicotinamide. The reaction liquid was cooled to 30° C. or below. 20 ml of methanol was added to the liquid. 4.0 g of triethylamine was added dropwise to the liquid mixture while it was kept at 5° C. and the obtained mixture was stirred at room temperature for 3 h. Then, the mixture was kept at room temperature overnight. The reaction liquid was poured in an aqueous sodium bicarbonate solution and a benzene layer thus separated was washed with saturated aqueous common salt solution and water and dried over anhydrous sodium sulfate. After concentration, the residue was recrystallized from methanol to obtain 4.8 g of N-(1-methoxy-2,2,2-trichloroethyl)nicotinamide.

reactant | N-(1-hydroxy-2,2,2-trichloroethyl)nicotinamide | 10.0 g | OC(C(Cl)(Cl)Cl)NC(C1=CN=CC=C1)=O | C8H7Cl3N2O2
reactant | thionyl chloride | 5.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-(1,2,2,2-tetrachloroethyl)nicotinamide | ClC(C(Cl)(Cl)Cl)NC(C1=CN=CC=C1)=O | C8H6Cl4N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N-(1-methoxy-2,2,2-trichloroethyl)nicotinamide | 4.8 g | COC(C(Cl)(Cl)Cl)NC(C1=CN=CC=C1)=O | C9H9Cl3N2O2
